US05965490
4Chloro-2methoxypyridine-3-sulfonyl chloride;
A mixture of 0.90 g (4.5 mmol) of 2-amino-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine and 35 mL of dry acetonitrile was prepared and 2.39 g (9.06 mmol) of methyl 2-chlorosulfonyl-3-methoxybenzoate, 0.72 g (9.1 mmol) of dry pyridine, and 0.071 g (0.91 mmol) of dimethyl sulfoxide were added with stirring at ambient temperature keeping the system dry. After 16 hours another 0.35 g (4.5 mmol) of dry pyridine was added and after an additional 48 hours the volatile components of the mixture were removed by evaporation under reduced pressure. The residue obtained was diluted with 50 mL of dichloromethane and 50 mL of 2N aqueous hydrochloric acid and the mixture was stirred vigorously for 72 hours. The solids present were recovered by filtration and washed with 3×25 mL of water, 3×10 mL of dichloromethane, and 3×10 mL of diethyl ether to obtain the title compound as a white solid. The total filtrate and washes were combined and were diluted with 25 mL of dichloromethane and 25 mL of 2N aqueous hydrochloric acid in a separatory funnel. The phases were separated and the organic phase was washed with 3×50 mL of 2N aqueous hydrochloric acid. It was then dried over sodium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain a yellow solid. This was suspended in 5.0 mL of dichloromethane and the solids were recovered by filtration and washed quickly with 2×5.0 mL of dichloromethane and 2×15 mL of diethyl ether to obtain additional title compound as a white solid. The combined title compound amounted to 1.09 g (56 percent of theory) and melted at 290-292° C. with decomposition.

reactant | 2-amino-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine | 4.5 mmol, 0.90 g | NC1=NN2C(C(=CC=C2Cl)OC)=N1 | C7H7ClN4O
reactant | methyl 2-chlorosulfonyl-3-methoxybenzoate | 9.06 mmol, 2.39 g | ClS(=O)(=O)C1=C(C(=O)OC)C=CC=C1OC | C9H9ClO5S
reactant | pyridine | 9.1 mmol, 0.72 g | N1=CC=CC=C1 | C5H5N
reactant | dimethyl sulfoxide | 0.91 mmol, 0.071 g | CS(=O)C | C2H6OS
reactant | pyridine | 4.5 mmol, 0.35 g | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | hydrochloric acid | 2N, 50 mL | Cl | ClH
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | 4Chloro-2methoxypyridine-3-sulfonyl chloride | ClC1=C(C(=NC=C1)OC)S(=O)(=O)Cl | C6H5Cl2NO3S
